US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2-butynylidene] hydrazide (compound No. I-53)
2-butyne-1-al diethyl acetal (0.27 g, 0.000993×2 mol) was mixed with a 2N aqueous hydrochloric acid solution (about 3 ml) and 5 ml of benzene, and then the resultant mixture was stirred at about 70° C. for about 2 hours. After cooling to room temperature, the obtained mixture was mixed with 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.325 g, 0.000993 mol), and the resultant mixture was stirred at room temperature for 45 minutes. The obtained reaction solution was distributed in ethyl acetate-water, and the organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated. The obtained concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 2-butyne-1-al diethyl acetal | 2 mol, 0.27 g | C(C)OC(C#CC)OCC | C8H14O2
reactant | hydrochloric acid | 2N, about 3 ml | Cl | ClH
reactant | benzene | 5 ml | C1=CC=CC=C1 | C6H6
reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.000993 mol, 0.325 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2-butynylidene] hydrazide | C(C#CC)=NNC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O | C18H14F3N3O3
